US08372842B2
Lithium hydroxide hydrate (0.0471 g, 1.12 mmol) was added to a solution of THF/water (3:1, 19 mL) and stirred until dissolved. The mixture was cooled to 0° C. and treated with 30% hydrogen peroxide (0.231 mL, 2.24 mmol) and stirred for 10 minutes. A solution of (S)-tert-butyl 2-((S)-2-((R)-4-benzyl-2-oxooxazolidin-3-yl)-1-(4-chlorophenyl)-2-oxoethyl)pyrrolidine-1-carboxylate (0.280 g, 0.561 mmol) in THF (2 mL) was added. The reaction was stirred for 30 minutes at 0° C. TLC did not show much progress, therefore the reaction was allowed to warm to ambient temperature and stirred overnight. The reaction was quenched by addition of 1.5 M Na2SO3 (1 mL) and stirred for 15 minutes. The reaction mixture was diluted with Et2O and separated. The aqueous portion was washed (2×) with Et2O then adjusted to a pH of 1 with 3N HCl. The aqueous portion was extracted (3×) with ethyl acetate. The combined organic layers were washed with water (2×), saturated NaCl, dried over Na2SO4 and concentrated in vacuo to a thick oil which slowly solidified to give (S)-2-((S)-1-(tert-butoxycarbonyl)pyrrolidin-2-yl)-2-(4-chlorophenyl)acetic acid as a foam (0.55 g, 72%). 1H NMR (CDCl3, 400 MHz) δ 7.30 (d, 2H), 7.21 (d, 2H), 4.53-4.40 (m, 1H), 4.37-4.27 (m, 1H), 3.34-3.22 (m, 1H), 2.98-2.90 (m, 1H), 2.02-1.90 (m, 1H), 1.83-1.74 (m, 1H), 1.64-1.53 (m, 2H), 1.50 (s, 9H).

reactant | Lithium hydroxide hydrate | 1.12 mmol, 0.0471 g | O.[OH-].[Li+]
reactant | THF water | 19 mL | C1CCOC1.O
reactant | hydrogen peroxide | 2.24 mmol, 0.231 mL | OO | H2O2
reactant | (S)-tert-butyl 2-((S)-2-((R)-4-benzyl-2-oxooxazolidin-3-yl)-1-(4-chlorophenyl)-2-oxoethyl)pyrrolidine-1-carboxylate | 0.561 mmol, 0.280 g | C(C1=CC=CC=C1)[C@H]1N(C(OC1)=O)C([C@@H](C1=CC=C(C=C1)Cl)[C@H]1N(CCC1)C(=O)OC(C)(C)C)=O | C27H31ClN2O5
solvent | THF | 2 mL | C1CCOC1 | C4H8O
product | (S)-2-((S)-1-(tert-butoxycarbonyl)pyrrolidin-2-yl)-2-(4-chlorophenyl)acetic acid | 0.55 g, 72% | C(C)(C)(C)OC(=O)N1[C@@H](CCC1)[C@@H](C(=O)O)C1=CC=C(C=C1)Cl | C17H22ClNO4
